US08563593B2
Palladium acetate (0.01 eq), dppb (0.015 eq), CuI (0.015 eq) and potassium carbonate (3 eq) are suspended in acetonitrile (1.2 vol). After stirring for 15 minutes, a solution of 4-benzyloxy-3,3-dimethylbut-1-yne (1.1 eq) in acetonitrile (0.2 vol) is added. The mixture is sparged with nitrogen gas for 1 h and then a solution of (R)-1-((4-amino-2-bromo-5-fluorophenyl)amino)-3-(benzyloxy)propan-2-ol free base (1 eq) in acetonitrile (4.1 vol) is added. The mixture is sparged with nitrogen gas for another hour and then is heated to 80° C. Reaction progress is monitored by HPLC and the reaction is usually complete within 3-5 h. The mixture is cooled to room temperature and then filtered through Celite. The cake is washed with acetonitrile (4 vol). The combined filtrates are azeotroped to dryness and then the mixture is polish filtered into the next reactor. The acetonitrile solution of (R)-1-((4-amino-2-(4-(benzyloxy)-3,3-dimethylbut-1-yn-1-yl)-5-fluorophenyl)amino)-3-(benzyloxy)propan-2-ol thus obtained is used directly in the next procedure (cyclization) without further manipulation.

reactant | dppb | 0.015 eq | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C28H28P2
reactant | potassium carbonate | 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 4-benzyloxy-3,3-dimethylbut-1-yne | 1.1 eq | C(C1=CC=CC=C1)OCC(C#C)(C)C | C13H16O
reactant | (R)-1-((4-amino-2-bromo-5-fluorophenyl)amino)-3-(benzyloxy)propan-2-ol | 1 eq | NC1=CC(=C(C=C1F)NC[C@H](COCC1=CC=CC=C1)O)Br | C16H18BrFN2O2
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Palladium acetate | 0.01 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | CuI | 0.015 eq | [Cu]I
product | (R)-1-((4-amino-2-(4-(benzyloxy)-3,3-dimethylbut-1-yn-1-yl)-5-fluorophenyl)amino)-3-(benzyloxy)propan-2-ol | NC1=CC(=C(C=C1F)NC[C@H](COCC1=CC=CC=C1)O)C#CC(COCC1=CC=CC=C1)(C)C | C29H33FN2O3
